US09388189B2
a) 1-(4-Bromopyridin-2-yl)-N, N-dimethylpiperidin-4-amine
In a pressure vessel were dissolved 4-bromo-2-fluoropyridine (1 g, 5.68 mmol) and N,N-dimethylpiperidin-4-amine (1.1 g, 8.58 mmol) in DMSO (7 ml). Potassium carbonate (2.4 g, 17.36 mmol) was added and the reaction was heated at 100° C. overnight. The reaction mixture was poured into water and extracted twice with diethylether. The organics were combined, washed with brine, dried over magnesium sulphate, filtered and concentrated under reduced pressure to give 1.55 g (91% yield) of the title compound as a oil. Purity 95%.

reactant | 4-bromo-2-fluoropyridine | 5.68 mmol, 1 g | BrC1=CC(=NC=C1)F | C5H3BrFN
reactant | N,N-dimethylpiperidin-4-amine | 8.58 mmol, 1.1 g | CN(C1CCNCC1)C | C7H16N2
reactant | Potassium carbonate | 17.36 mmol, 2.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | DMSO | 7 ml | CS(=O)C | C2H6OS
product | 1-(4-Bromopyridin-2-yl)-N, N-dimethylpiperidin-4-amine | 1.55 g, 91% yield | BrC1=CC(=NC=C1)N1CCC(CC1)N(C)C | C12H18BrN3
